US08278302B2
3-Bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenylamine
A solution of 5-(3-Bromo-5-nitro-phenyl)-1-methyl-1H-tetrazole (2.1 g) in EtOAc (100 ml) was hydrogenated on a H-cube® apparatus at 20° C., room pressure with a flow rate of 1 ml/min using a Raney-Ni cartridge. After reaction completion, the mixture was concentrated in vacuum and triturated with MeOH. The solid was filtered and further triturated and air-dried to give the title compound (290 mg). Rt 1.25 min (method D).

reactant | 5-(3-Bromo-5-nitro-phenyl)-1-methyl-1H-tetrazole | 2.1 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])C1=NN=NN1C | C8H6BrN5O2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
catalyst | Ni | [Ni] | Ni
product | 3-Bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenylamine | 290 mg | BrC=1C=C(C=C(C1)C1=NN=NN1C)N | C8H8BrN5
